US04927838
1-Butyl-7-methoxy-2-naphthalenecarboxaldehyde
As in Example 136, 1-butyl-7-methoxy-2-naphthalenemethanol (2.25 g) was oxidized by using the reagent prepared from dimethylsulfoxide (0.54 mL) and oxalyl chloride (0.9 mL) in dry dichloromethane (25 mL). The usual work up gave 2 g of 1-butyl-7-methoxy-2-naphthalenecarboxaldehyde and distillation of a sample on a Kugelrohr apparatus (138°-140° C.; 0.1 mm) furnished the analytical specimen. Anal. Calcd for C16H18O2 : C, 79.31; H, 7.49 Found: C, 79.11; H, 7.49

reactant | 1-butyl-7-methoxy-2-naphthalenemethanol | 2.25 g | C(CCC)C1=C(C=CC2=CC=C(C=C12)OC)CO | C16H20O2
reactant | dimethylsulfoxide | 0.54 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 0.9 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 1-Butyl-7-methoxy-2-naphthalenecarboxaldehyde | C(CCC)C1=C(C=CC2=CC=C(C=C12)OC)C=O | C16H18O2
